US05629343
N-(2-Acetylthiomethyl-4-phenylbutanoyl)-(L)-leucine t-butyl ester
To a solution of 4-phenyl-2-[acetylthio-methyl]butyric acid (3.57 g. 14.2 mmole) in 66 mL of THF at 0° C. was added (S)-leucine, t-butyl ester (2.91 g 15.6 mmole) and 1-hydroxybenzotriazole hydrate (HOBT·H2O, 2.86 g, 21.2 mmole) and N-methylmorpholine (4.29 g, 42.4 mmole). The mixture was stirred at 0° C. for 15 minutes, then 5.42 g of 1-ethyl-3-(3-dimethyl-aminopropyl) carbodiimide hydrochloride (EDC·HCl, 28.3 mmole) was added and the mixture stirred overnight. The solution was worked up by adding 100 mL methylene chloride and the mixture extracted with 3×50 ml of 5% sodium bicarbonate and washed with 2×50 mL of brine. The organic layer was dried over MgSO4, filtered, and the solvent removed under reduced pressure. The residue was purified by flash column chromatography on silica gel eluted with methylene chloride/ethyl acetate (95/5).

reactant | 4-phenyl-2-[acetylthio-methyl]butyric acid | 14.2 mmole, 3.57 g | C1(=CC=CC=C1)CCC(C(=O)O)CSC(C)=O | C13H16O3S
reactant | (S)-leucine, t-butyl ester | 15.6 mmole, 2.91 g | N[C@@H](CC(C)C)C(=O)OC(C)(C)C | C10H21NO2
reactant | 1-hydroxybenzotriazole hydrate | 21.2 mmole, 2.86 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 42.4 mmole, 4.29 g | CN1CCOCC1 | C5H11NO
solvent | THF | 66 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(2-Acetylthiomethyl-4-phenylbutanoyl)-(L)-leucine t-butyl ester | C(C)(C)(C)OC([C@@H](NC(C(CCC1=CC=CC=C1)CSC(C)=O)=O)CC(C)C)=O | C23H35NO4S
